US05972965
To a solution of (1R)-1-[(2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidin-1-yl]-5-tert-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (1.22 g) in THF (20 ml) was added tetrabutylammonium fluoride (2.7 ml, 1M solution in THF) at 0° C. After being stirred for 2 hours at the room temperature, the mixture was diluted with ethyl acetate and washed with water and brine. The dried solvent was evaporated in vacuo. The obtained oil was dissolved into DMF (10 ml) and then K2CO3 (2.0 g) and ethyl bromoacetate (0.3 ml) were added at room temperature. The mixture was stirred for 2 hours at the same temperature and then partitioned between ethyl acetate and water. The organic layer was washed with water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (1R)-1-[(2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidin-1-yl]-5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydronaphthalene (800 mg). MS (m/z): 523 (M+ +1) IR (Neat): 1750 cm-1NMR (CDCl3, δ): 1.24 (3H, t, J=7 Hz), 1.5-2.4 (8H, m), 2.5-3.2 (4H, m), 4.0-4.4 (2H, m), 4.22 (2H, q, J=7 Hz), 4.44 (2H, s), 6.37 (1H, d, J=8 Hz), 6.83 (1H, t, J=8 Hz), 7.06 (1H, d, J=8 Hz), 7.2-7.7 (10H, m)

reactant | (1R)-1-[(2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidin-1-yl]-5-tert-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 1.22 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(CCC1)[C@@H]1CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C45H46N2O2Si
reactant | tetrabutylammonium fluoride | 1M, 2.7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (1R)-1-[(2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidin-1-yl]-5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydronaphthalene | 800 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(CCC1)[C@@H]1CCCC2=C(C=CC=C12)OCC(=O)OCC | C33H34N2O4
